* File: Lab3_AND_FA.pex.netlist
* Created: Tue Nov 11 12:50:34 2025
* Program "Calibre xRC"
* Version "v2022.4_37.20"
* 
.include "Lab3_AND_FA.pex.netlist.pex"
.subckt Lab3_AND_FA  A Cin Cout Sum X Y Gnd Vdd
* 
* Cout	Cout
* Sum	Sum
* Vdd	Vdd
* Cin	Cin
* A	A
* Y	Y
* X	X
* Gnd	Gnd
XMMn17 N_N_15_MMn17_d N_X_MMn17_g N_Gnd_MMn17_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn16 N_N_11_MMn16_d N_Y_MMn16_g N_N_15_MMn16_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn15 N_N_8_MMn15_d N_N_11_MMn15_g N_Gnd_MMn15_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn1 N_N_14_MMn1_d N_A_MMn1_g N_Gnd_MMn1_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn2 N_N_14_MMn2_d N_N_8_MMn2_g N_Gnd_MMn2_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn12 N_N_10_MMn12_d N_Cin_MMn12_g N_N_14_MMn12_s N_Gnd_MMn17_b NMOS25
+ L=2.5e-07 W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn11 N_N_10_MMn11_d N_A_MMn11_g N_N_13_MMn11_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn3 N_N_13_MMn3_d N_N_8_MMn3_g N_Gnd_MMn3_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn4 N_N_12_MMn4_d N_A_MMn4_g N_Gnd_MMn4_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn5 N_N_12_MMn5_d N_N_8_MMn5_g N_Gnd_MMn5_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn6 N_N_12_MMn6_d N_Cin_MMn6_g N_Gnd_MMn6_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn10 N_N_9_MMn10_d N_N_10_MMn10_g N_N_12_MMn10_s N_Gnd_MMn17_b NMOS25
+ L=2.5e-07 W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn9 N_N_9_MMn9_d N_Cin_MMn9_g N_N_5_MMn9_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn8 N_N_5_MMn8_d N_N_8_MMn8_g N_N_4_MMn8_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn7 N_N_4_MMn7_d N_A_MMn7_g N_Gnd_MMn7_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn13 N_Sum_MMn13_d N_N_9_MMn13_g N_Gnd_MMn13_s N_Gnd_MMn17_b NMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMn14 N_Cout_MMn14_d N_N_10_MMn14_g N_Gnd_MMn14_s N_Gnd_MMn17_b NMOS25
+ L=2.5e-07 W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp16 N_N_11_MMp16_d N_X_MMp16_g N_Vdd_MMp16_s N_Vdd_MMp16_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp17 N_N_11_MMp17_d N_Y_MMp17_g N_Vdd_MMp17_s N_Vdd_MMp17_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp15 N_N_8_MMp15_d N_N_11_MMp15_g N_Vdd_MMp15_s N_Vdd_MMp15_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp12 N_N_7_MMp12_d N_A_MMp12_g N_Vdd_MMp12_s N_Vdd_MMp12_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp11 N_N_7_MMp11_d N_N_8_MMp11_g N_Vdd_MMp11_s N_Vdd_MMp11_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp1 N_N_10_MMp1_d N_Cin_MMp1_g N_N_7_MMp1_s N_Vdd_MMp1_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp2 N_N_10_MMp2_d N_A_MMp2_g N_N_6_MMp2_s N_Vdd_MMp2_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp10 N_N_6_MMp10_d N_N_8_MMp10_g N_Vdd_MMp10_s N_Vdd_MMp10_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp9 N_N_1_MMp9_d N_A_MMp9_g N_Vdd_MMp9_s N_Vdd_MMp9_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp8 N_N_1_MMp8_d N_N_8_MMp8_g N_Vdd_MMp8_s N_Vdd_MMp8_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp7 N_N_1_MMp7_d N_Cin_MMp7_g N_Vdd_MMp7_s N_Vdd_MMp7_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp3 N_N_9_MMp3_d N_N_10_MMp3_g N_N_1_MMp3_s N_Vdd_MMp3_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp4 N_N_9_MMp4_d N_Cin_MMp4_g N_N_2_MMp4_s N_Vdd_MMp4_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp5 N_N_2_MMp5_d N_N_8_MMp5_g N_N_3_MMp5_s N_Vdd_MMp5_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp6 N_N_3_MMp6_d N_A_MMp6_g N_Vdd_MMp6_s N_Vdd_MMp6_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp13 N_Sum_MMp13_d N_N_9_MMp13_g N_Vdd_MMp13_s N_Vdd_MMp13_b PMOS25 L=2.5e-07
+ W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
XMMp14 N_Cout_MMp14_d N_N_10_MMp14_g N_Vdd_MMp14_s N_Vdd_MMp14_b PMOS25
+ L=2.5e-07 W=1.5e-06 AD=9.75e-13 AS=9.75e-13 PD=4.3e-06 PS=4.3e-06
*
.include "Lab3_AND_FA.pex.netlist.Lab3_AND_FA.pxi"
*
.ends
*
*
